US05559111
b) 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid N-methylamide
2.52 g of 3-benzyloxycarbonylamino-2(R,S)-methylpropionic acid methyl ester and 50 ml of 33% methylamine (in ethanol) are stirred at room temperature for 48 hours. The reaction mixture is concentrated by evaporation and the title compound is obtained from the residue by crystallisation from ethyl acetate: Rf (dichloromethane/methanol=95:5)=0.42; m.p. 128°-129° C.

reactant | 3-benzyloxycarbonylamino-2(R,S)-methylpropionic acid methyl ester | 2.52 g | COC(C(CNC(=O)OCC1=CC=CC=C1)C)=O | C13H17NO4
reactant | methylamine | 50 ml | CN | CH5N
product | 3-Benzyloxycarbonylamino-2(R,S)-methylpropionic acid N-methylamide | CNC(C(CNC(=O)OCC1=CC=CC=C1)C)=O | C13H18N2O3
